US08022062B2
4-Aminomethyl-2-chloro-N-cycloheptyl-benzamide:
Dissolve 4-tert-butoxycarbonylaminomethyl-2-chloro-N-cycloheptyl-benzamide (624 mg, 1.6 mmol) in dichloromethane (30 mL) then add trifluoroacetic acid (2 mL). Stir the solution at room temperature under a nitrogen atmosphere for 1 h. Concentrate the mixture in vacuo. Purify the crude mixture by SCX chromatography to obtain the desired intermediate (395 mg, 85%). MS (ES+) m/z: 281.2 (M+H)+.

reactant | 4-tert-butoxycarbonylaminomethyl-2-chloro-N-cycloheptyl-benzamide | 1.6 mmol, 624 mg | C(C)(C)(C)OC(=O)NCC1=CC(=C(C(=O)NC2CCCCCC2)C=C1)Cl | C20H29ClN2O3
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 4-Aminomethyl-2-chloro-N-cycloheptyl-benzamide | 395 mg, 85% | NCC1=CC(=C(C(=O)NC2CCCCCC2)C=C1)Cl | C15H21ClN2O
